US08895748B2
Preparation of 2-bromo-1-(5-ethylpyridin-2-yl)ethanone O-methyl oxime
To a stirring solution of 2-bromo-1-(5-ethylpyridin-2-yl)ethanone hydrobromide (1.024 g, 3.314 mmol; Supplier=Kalexsyn; Lot=1003-TTP-185) in EtOH (10 ml) was added methoxylamine hydrochloride (553.5 mg, 6.628 mmol). Left to stir at RT overnight. The reaction mixture was evaporated in vacuo. The residue was dissolved in DCM and an equal volume of saturated NaHCO3 was added and the biphasic mixture stirred for 30 minutes. The phases were separated and the aqueous phase was extracted with DCM. The combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo to afford a pale yellow oil which crystallized upon standing. 1H-NMR (CDCl3): δ 8.50 (s, 1H), 7.87 (d, J=8.3 Hz, 1H), 7.59 (m, 1H), 4.79 (s, 1H), 4.64 (s, 1H), 4.13 (d, J=4.4 Hz, 3H), 2.70 (q, J=7.7 Hz, 2H), 1.28 (t, J=7.7 Hz, 3H). HPLC: 3.429 min., 30 area % and 3.621 min., 31 area % @ 210 nm; 3.414 min., 36 area % and 3.618 min., 36 area % @ 210 nm. MS (ESI—) for C10H13BrN2O m/z 258.2 (M+H)+.

reactant | 2-bromo-1-(5-ethylpyridin-2-yl)ethanone hydrobromide | 3.314 mmol, 1.024 g | Br.BrCC(=O)C1=NC=C(C=C1)CC
reactant | methoxylamine hydrochloride | 6.628 mmol, 553.5 mg | Cl.O(C)N
solvent | EtOH | 10 ml | CCO | C2H6O
product | 2-bromo-1-(5-ethylpyridin-2-yl)ethanone O-methyl oxime | CON=C(CBr)C1=NC=C(C=C1)CC | C10H13BrN2O
